US06080754
Methyl 7-acetylamino-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1-carboxylate
A solution of 6-acetylamino-2-(4-benzyloxyphenyl)-1-ethylindolizine (38.5 g, 0.1 mol) in 3000 ml of toluene was stirred in a nitrogen atmosphere at 50° C. while methyl propiolate (10.2 ml, 0.115 mol) was added dropwise. The mixture was heated to 90° C. and stirring was continued for 3 hours. The mixture was cooled to 4° C. and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (22.6 g, 0.1 mol) was added in portions. The cooling source was removed and stirring was continued for 16 hours. The mixture was filtered through celite and the celite pad was washed several times with toluene. The combined filtrates were evaporated to app. 500 ml and 1000 ml of petroleum ether was added. The precipitate was filtered off and dried to yield 38.7 g (83%) of the title compound. M.p. 210-13° C. 1H-NMR (DMSO-d6, 200 Hz) δ: 1.38 (t, 3H), 2.27 (s, 3H), 3.15 (q, 2H), 3.96 (s, 3H), 5.18 (s, 2H), 7.20 (d, 2H), 7.35-7.55 (m, 5H), 7.75 (d, 2H), 7.90 (s, 1H), 8.13 (d, 1H), 8.95 (d, 1H), 11.78 (s, 1H).

reactant | 6-acetylamino-2-(4-benzyloxyphenyl)-1-ethylindolizine | 0.1 mol, 38.5 g | C(C)(=O)NC1=CN2C=C(C(=C2C=C1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C25H24N2O2
reactant | methyl propiolate | 0.115 mol, 10.2 ml | C(C#C)(=O)OC | C4H4O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.1 mol, 22.6 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 3000 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 7-acetylamino-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1-carboxylate | 38.7 g, 83% | C(C)(=O)NC=1C=CC=2N3C(C=C(C13)C(=O)OC)=C(C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C29H26N2O4
